US04550169
7-Hydrazino-3,4,5,6-tetrahydro-2H-azepine
A 22.5 g portion 7-methoxy-3,4,5,6-tetrahydro-2H-azepine was reacted with 11.3 g of hydrazine hydrate in 200 ml of ethanol by the procedure of Example 9, giving the desired intermediate.

reactant | 7-methoxy-3,4,5,6-tetrahydro-2H-azepine | COC=1CCCCCN1 | C7H13NO
reactant | hydrazine hydrate | 11.3 g | O.NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 7-Hydrazino-3,4,5,6-tetrahydro-2H-azepine | N(N)C=1CCCCCN1 | C6H13N3
